US08476300B2
4-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-3-carbonitrile hydrochloride
Add a solution of Hydrogen Chloride in ether (1 M, 180 μL, 180.0 μmol) to a prepared solution of 4-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-3-carbonitrile (87 mg, 179.5 μmol) in Dichloromethane (2 mL). Stir the mixture for 10 min. Concentrate the mixture to obtain the title compound (95 mg, 179 μmol).

reactant | Hydrogen Chloride | Cl | ClH
reactant | ether | 180.0 μmol, 1 M, 180 μL | CCOCC | C4H10O
reactant | 4-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-3-carbonitrile | 179.5 μmol, 87 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C=1C(=CSC1)C#N | C29H28N2O3S
solvent | Dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-3-carbonitrile hydrochloride | 179 μmol, 95 mg | Cl.COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C=1C(=CSC1)C#N | InChI=1S/C29H28N2O3S.ClH/c1-32-25-10-12-26-21(17-25)5-11-27(28-20-35-19-22(28)18-30)29(26)34-24-8-6-23(7-9-24)33-16-15-31-13-3-2-4-14-31;/h5-12,17,19-20H,2-4,13-16H2,1H3;1H
